US07947684B2
B. 7-Bromo-2H-isoquinolin-1-one
Preheated 2 separate oil baths to 240° C. A flask containing tributylamine (6.68 g, 36.1 mmol) and diphenyl ether (80 mL) was lowered into one oil bath (A), and a flask containing 3-(4-bromophenyl)acryloyl azide (7.91 g, 31.3 mmol) and diphenyl ether (80 mL) was lowered into the other oil bath (B) [vigorous gas evolution—internal temperature must quickly reach >200° C.]. After 10 minutes, the contents of flask B are poured into flask A, and the reaction left at 230-240° C. (internal temperature) for 30 minutes. Cooled reaction mixture to ˜100° C., poured into hexanes (2 L), stirred to cool to room temperature and filtered off the precipitate. Washed precipitate with methylene chloride/hexanes (ratio 1/50), dried under high vacuum to give a colorless powder (4.20 g, 18.8 mmol). 1H NMR (DMSO) δ 11.41 (s, 1H), 8.23 (s, 1H), 7.82 (dd, 1H), 7.62 (d, 1H), 7.20 (t, 1H), 6.54 (d, 1H). ESI MS (M+1)+: 224, 226 (Br).

reactant | tributylamine | 36.1 mmol, 6.68 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | 3-(4-bromophenyl)acryloyl azide | 31.3 mmol, 7.91 g | BrC1=CC=C(C=C1)C=CC(=O)N=[N+]=[N-] | C9H6BrN3O
reactant | diphenyl ether | 80 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | diphenyl ether | 80 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 7-Bromo-2H-isoquinolin-1-one | 18.8 mmol, 4.20 g | BrC1=CC=C2C=CNC(C2=C1)=O | C9H6BrNO
